### PR TITLE
[Merged by Bors] - feat: Define `Nat.finMulAntidiagonal`, the `Finset` of tuples of naturals with a fixed product.

### PR DESCRIPTION
**Pull request by amellendijk**
The result `card_finMulAntidiagonal_of_squarefree` is central to controlling the error term in my formalisation of the Selberg sieve. (specifically for lemma 3.1 in [Heath-Brown's notes](https://arxiv.org/abs/math/0209360))

The definition is adapted from [Finset.finAntidiagonal](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Finset/PiAntidiagonal.html#Finset.finAntidiagonal), though it is held back a bit by `Nat.divisorsAntidiagonal` which has a time complexity of $O(n^2)$.

This definition is limited to `Nat` because it's not clear how to handle 0 in higher generality. ([zulip](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.237486.20antidiagonal/near/395886479))

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by eric-wieser** [comment]
I would prefer if we could avoid duplicating the `finAntidiagonal` work here; one way would be with:
```lean
import Mathlib

def PNat.divisorsAntidiagonal (n : ℕ+) : Finset (ℕ+ × ℕ+) :=
  (Nat.divisorsAntidiagonal n).attach.map
    ⟨fun x =>
      (⟨x.val.1, sorry⟩, ⟨x.val.2, sorry⟩),
    fun x₁ x₂ h => Subtype.ext <| Prod.ext (congr_arg (·.1.val) h) (congr_arg (·.2.val) h)⟩

instance : Finset.HasAntidiagonal (Additive ℕ+) where
  antidiagonal n := PNat.divisorsAntidiagonal (Additive.toMul n)
  mem_antidiagonal := sorry

#eval Finset.finAntidiagonal 3 (Additive.ofMul (6 : ℕ+))
```
Whatever we do, I think `Finset.HasAntidiagonal (Additive ℕ+)` should be an instance.

**Comment by FLDutchmann** [comment]
I like the idea of using a `Finset.HasAntidiagonal (Additive ℕ+)` instance to prevent code duplication. I'm having a bit of trouble proving `mem_finMulAntidiagonal` though. We're probably missing some API here. I've also found a bug in `arrowCongrRight_apply` which I'll open a PR for in a sec.

I also don't care very strongly what the API ends up looking like, so long as we get the cardinalities of `((n.divisors ×ˢ n.divisors).filter fun ⟨x, y⟩ => x.lcm y = n)` and `(Fintype.piFinset fun _ : Fin d => n.divisors).filter fun f => ∏ i, f i = m` (which makes me prefer working with `Nat` directly when possible).

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 1]
```diff
@@ -0,0 +1,316 @@
...
+      rw [Nat.mul_div_cancel_left' (Nat.gcd_dvd_left _ _), ← hb.2, lcm,
+        Nat.mul_div_assoc b.fst (Nat.gcd_dvd_right b.fst b.snd)]
+  use a; use ha
+  apply Prod.ext <;> simp only [Matrix.cons_val_zero, Matrix.cons_val_one, Matrix.head_cons]
+    <;> apply Nat.mul_div_cancel'
+  · apply Nat.gcd_dvd_left
+  · apply Nat.gcd_dvd_right
+
+theorem card_pair_lcm_eq {n : ℕ} (hn : Squarefree n) :
+    Finset.card ((n.divisors ×ˢ n.divisors).filter fun ⟨x, y⟩ => x.lcm y = n) = 3 ^ ω n := by
```
Comment (eric-wieser) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:312]: I think it would be better to state this as
```suggestion
    Finset.card ((n.divisors ×ˢ n.divisors).filter fun p => p.1.lcm p.2 = n) = 3 ^ ω n := by
```
as otherwise the lemma statement as it appears in the docs contains a `match`!

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 2]
```diff
@@ -0,0 +1,252 @@
...
+(`card_finMulAntidiagonal_of_squarefree`)
+-/
+
+open Finset
+open scoped BigOperators ArithmeticFunction
+namespace PNat
+
+/-- The set of divisors of a positive natural number.
+This is `Nat.divisorsAntidiagonal` without a special case for `n = 0`. -/
+def divisorsAntidiagonal (n : ℕ+) : Finset (ℕ+ × ℕ+) :=
```
[the remark this answers is not in the document]
Comment (FLDutchmann) [reply Mathlib/Data/Nat/FinMulAntidiagonal.lean:27]: Changing `Nat.divisorsAntidiagonal` would be a pretty big refactor. As it stands, it's used all over the `ArithmeticFunction` API, and it is used together with `Nat.divisors` which we would probably want to change as well. I don't think this would be bad per se, but I am not certain that the resulting API would be much better. 

The problem is that `PNat` just isn't very well-behaved. It doesn't fit neatly in the algebraic hierarchy (it's not even a semiring), so using it as is would require expanding the `PNat` API quit a bit. A lot of tactics with special cases for `Nat` also don't support `PNat` properly. 

```lean
example (x y : ℕ+) (h : x < y) : x + 1 < y + 1 := by
  /- linarith failed to find a contradiction -/
  linarith
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 3]
```diff
@@ -0,0 +1,251 @@
...
+    (.prodMap (Additive.ofMul.toEmbedding) (Additive.ofMul.toEmbedding))
+  mem_antidiagonal {n a} := by
+    obtain ⟨a₁, a₂⟩ := a
+    revert n a₁ a₂
+    simp_rw [Additive.ofMul.surjective.forall, ← ofMul_mul, Additive.ofMul.injective.eq_iff]
+    simp
+
+@[norm_cast]
+theorem coe_prod {ι : Type*} (f : ι → ℕ+) (s : Finset ι) :
+    ↑(∏ i in s, f i) = (∏ i in s, f i : ℕ) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:52]:
```suggestion
    ↑(∏ i ∈ s, f i) = (∏ i ∈ s, f i : ℕ) :=
```
can you move that earlier?

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 4]
```diff
@@ -0,0 +1,251 @@
...
+      exact ⟨ha_mem, h.ne.symm⟩
+    · rintro ⟨rfl, _⟩
+      refine ⟨fun i ↦ ⟨f i, ?_⟩, rfl, funext fun _ => rfl⟩
+      apply Nat.pos_of_ne_zero
+      exact Finset.prod_ne_zero_iff.mp h.ne.symm _ (mem_univ _)
+  · simp only [not_lt, nonpos_iff_eq_zero] at h
+    simp only [h, not_mem_empty, ne_eq, not_true_eq_false, and_false]
+
+@[simp]
+theorem finMulAntidiagonal_zero (d : ℕ) :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:90]:
```suggestion
theorem finMulAntidiagonal_zero_right (d : ℕ) :
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 5]
```diff
@@ -0,0 +1,251 @@
...
+    finMulAntidiagonal d 1 = {fun _ => 1} := by
+  ext f; simp only [mem_finMulAntidiagonal, and_true, mem_singleton]
+  constructor
+  · intro ⟨hf, _⟩; ext i;
+    rw [← Nat.dvd_one, ← hf];
+    exact dvd_prod_of_mem f (mem_univ _)
+  · rintro rfl; simp only [prod_const_one, implies_true, ne_eq, one_ne_zero, not_false_eq_true,
+    and_self]
+
+theorem finMulAntidiagonal_empty_of_ne_one {n : ℕ} (hn : n ≠ 1) :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:103]:
```suggestion
theorem finMulAntidiagonal_zero_left {n : ℕ} (hn : n ≠ 1) :
```
maybe?

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 6]
```diff
@@ -0,0 +1,251 @@
...
+    (hf : f ∈ finMulAntidiagonal d n) (i : Fin d) : f i ≠ 0 :=
+  ne_zero_of_dvd_ne_zero (mem_finMulAntidiagonal.mp hf).2 (dvd_of_mem_finMulAntidiagonal hf i)
+
+theorem prod_eq_of_mem_finMulAntidiagonal {d n : ℕ} {f : Fin d → ℕ}
+    (hf : f ∈ finMulAntidiagonal d n) : ∏ i, f i = n :=
+  (mem_finMulAntidiagonal.mp hf).1
+
+theorem finMulAntidiagonal_eq_piFinset_divisors_filter {d m n : ℕ} (hmn : m ∣ n) (hn : n ≠ 0) :
+    finMulAntidiagonal d m =
+      (Fintype.piFinset fun _ : Fin d => n.divisors).filter fun f => ∏ i, f i = m := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:123]: Please use the new filter notation
```suggestion
      {f ∈ Fintype.piFinset fun _ : Fin d => n.divisors | ∏ i, f i = m} := by
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 7]
```diff
@@ -0,0 +1,251 @@
...
+    congr
+    ext ⟨p, hp⟩
+    refine ⟨by rintro rfl; apply hf, fun h => (hf_unique p hp i h).symm⟩
+  rw [prod_attach (f:=fun p => if p ∣ t i then p else 1), ← Finset.prod_filter]
+  rw [primeFactors_filter_dvd_of_dvd hn.ne_zero this]
+  exact prod_primeFactors_of_squarefree <| hn.squarefree_of_dvd this
+
+theorem card_finMulAntidiagonal_pi (d n : ℕ) (hn : Squarefree n) :
+    (n.primeFactors.pi (fun _ => (univ : Finset <| Fin d))).card =
+      (finMulAntidiagonal d n).card := by
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:241]: Please uise the nex card notation
```suggestion
      #(finMulAntidiagonal d n) := by
```

**Review by YaelDillies — COMMENTED** [review]
I have strain injuries to both wrists, hence must not type much. Please apologise the poor spelling, vague indications and general conciseness.

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean (hunk 3 above)
Comment (FLDutchmann) [reply Mathlib/Data/Nat/FinMulAntidiagonal.lean]: Sadly none of the PNat files import `Finset.prod`. I've moved it to `Mathlib.Algebra.Order.BigOperators.Ring.Finset` next to a similar lemma about `abs`. 

If anybody knows a better place please tell me and I'll move the lemma. `#find_home` says `[Mathlib.RingTheory.Coprime.Lemmas, Mathlib.Algebra.Order.BigOperators.Ring.Finset, Mathlib.Data.Nat.Choose.Sum, Mathlib.Tactic.Module, Mathlib.RingTheory.Ideal.Lattice]`

File: Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean [hunk 8]
```diff
@@ -148,6 +148,11 @@ lemma abs_prod [LinearOrderedCommRing R] (s : Finset ι) (f : ι → R) :
     |∏ x ∈ s, f x| = ∏ x ∈ s, |f x| :=
   map_prod absHom _ _
 
+@[norm_cast]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/BigOperators/Ring/Finset.lean:151]:
```suggestion
@[simp, norm_cast]
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:1]: Can you avoid putting this under Data? It is not a data structure and is quite advanced in terms of imports.

What about Algebra.Order.Antidiag.Nat ?

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 9]
```diff
@@ -0,0 +1,246 @@
...
+`n = 0`. -/
+def finMulAntidiagonal (d : ℕ) (n : ℕ) : Finset (Fin d → ℕ) :=
+  if hn : 0 < n then
+    (Finset.finAntidiagonal d (Additive.ofMul (α := ℕ+) ⟨n, hn⟩)).map <|
+      .arrowCongrRight <| Additive.toMul.toEmbedding.trans <| ⟨PNat.val, PNat.coe_injective⟩
+  else
+    ∅
+
+@[simp]
+theorem mem_finMulAntidiagonal {d n : ℕ} {f : (Fin d) → ℕ} :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:64]:
```suggestion
theorem mem_finMulAntidiagonal {d n : ℕ} {f : Fin d → ℕ} :
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 10]
```diff
@@ -0,0 +1,246 @@
...
+
+theorem finMulAntidiagonal_one {d : ℕ} :
+    finMulAntidiagonal d 1 = {fun _ => 1} := by
+  ext f; simp only [mem_finMulAntidiagonal, and_true, mem_singleton]
+  constructor
+  · intro ⟨hf, _⟩; ext i;
+    rw [← Nat.dvd_one, ← hf];
+    exact dvd_prod_of_mem f (mem_univ _)
+  · rintro rfl; simp only [prod_const_one, implies_true, ne_eq, one_ne_zero, not_false_eq_true,
+    and_self]
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:96]:
```suggestion
  · rintro rfl
    simp only [prod_const_one, implies_true, ne_eq, one_ne_zero, not_false_eq_true, and_self]
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 11]
```diff
@@ -0,0 +1,246 @@
...
+    rw [← Finset.mul_prod_erase (a:=i) (h:=mem_univ _),
+      ← Finset.mul_prod_erase (a:= i')]
+    · rw [if_neg hi_ne, if_pos rfl, if_pos rfl, prod_eq_one]
+      · refine ⟨by ring, hn⟩
+      intro j hj
+      simp only [mem_erase, ne_eq, mem_univ, and_true] at hj
+      rw [if_neg hj.1, if_neg hj.2]
+    exact mem_erase.mpr ⟨hi_ne, mem_univ _⟩
+
+lemma image_piFinTwoEquiv {n : ℕ} :
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:155]:
```suggestion
lemma image_piFinTwoEquiv_finMulAntidiagonal {n : ℕ} :
```

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 12]
```diff
@@ -0,0 +1,246 @@
...
+(`card_finMulAntidiagonal_of_squarefree`)
+-/
+
+open Finset
+open scoped BigOperators ArithmeticFunction
+namespace PNat
+
+/-- The set of divisors of a positive natural number.
+This is `Nat.divisorsAntidiagonal` without a special case for `n = 0`. -/
+def divisorsAntidiagonal (n : ℕ+) : Finset (ℕ+ × ℕ+) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:27]:
```suggestion
def divisorsAntidiag (n : ℕ+) : Finset (ℕ+ × ℕ+) :=
```
to match `piAntidiag` and avoid having super long names (if you want to rename the existing things called `antidiagonal`, I would be grateful!)

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 13]
```diff
@@ -0,0 +1,246 @@
...
+    fun _ _ h => Subtype.ext <| Prod.ext (congr_arg (·.1.val) h) (congr_arg (·.2.val) h)⟩
+
+@[simp]
+theorem mem_divisorsAntidiagonal {n : ℕ+} (x : ℕ+ × ℕ+) :
+    x ∈ divisorsAntidiagonal n ↔ x.1 * x.2 = n := by
+  simp_rw [divisorsAntidiagonal, Finset.mem_map, Finset.mem_attach, Function.Embedding.coeFn_mk,
+    Prod.ext_iff, true_and, ← coe_inj, Subtype.exists]
+  aesop
+
+instance instHasAntidiagonal : Finset.HasAntidiagonal (Additive ℕ+) where
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:41]: Actually can you inline `divisorsAntidiagonal` in this instance?

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean [hunk 14]
```diff
@@ -0,0 +1,246 @@
...
+    simp_rw [Additive.ofMul.surjective.forall, ← ofMul_mul, Additive.ofMul.injective.eq_iff]
+    simp
+
+end PNat
+
+namespace Nat
+
+/-- The `Finset` of all `d`-tuples of natural numbers whose product is `n`. Defined to be `∅` when
+`n = 0`. -/
+def finMulAntidiagonal (d : ℕ) (n : ℕ) : Finset (Fin d → ℕ) :=
```
Comment (YaelDillies) [inline Mathlib/Data/Nat/FinMulAntidiagonal.lean:56]:
```suggestion
def finMulAntidiag (d : ℕ) (n : ℕ) : Finset (Fin d → ℕ) :=
```
similarly

File: Mathlib/Data/Nat/FinMulAntidiagonal.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Data/Nat/FinMulAntidiagonal.lean]: Looks fine to me!

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 15]
```diff
@@ -0,0 +1,247 @@
...
+    simp_rw [divisorsAntidiagonal, Finset.mem_map, Finset.mem_attach, Function.Embedding.coeFn_mk,
+      Prod.ext_iff, true_and, ← coe_inj, Subtype.exists]
+    aesop
+  { antidiagonal := fun n ↦ divisorsAntidiagonal (Additive.toMul n) |>.map
+      (.prodMap (Additive.ofMul.toEmbedding) (Additive.ofMul.toEmbedding))
+    mem_antidiagonal := fun {n a} ↦ by
+      obtain ⟨a₁, a₂⟩ := a
+      revert n a₁ a₂
+      simp_rw [Additive.ofMul.surjective.forall, ← ofMul_mul, Additive.ofMul.injective.eq_iff]
+      simp [mem_divisorsAntidiagonal] }
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:46]:
```suggestion
    mem_antidiagonal := by simp [← ofMul_mul, mem_divisorsAntidiagonal] }
```
should work, but I couldn't test it because the cache on your branch doesn't work for some reason

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 16]
```diff
@@ -0,0 +1,247 @@
...
+private theorem primeFactorsPiBij_inj (d n : ℕ)
+    (f : (p : ℕ) → p ∈ n.primeFactors → Fin d) (hf : f ∈ pi n.primeFactors fun _ => univ)
+    (g : (p : ℕ) → p ∈ n.primeFactors → Fin d) (hg : g ∈ pi n.primeFactors fun _ => univ) :
+    Nat.primeFactorsPiBij d n f hf = Nat.primeFactorsPiBij d n g hg → f = g := by
+  contrapose!
+  simp_rw [Function.ne_iff]
+  intro ⟨p, hp, hfg⟩
+  use f p hp
+  dsimp only [Nat.primeFactorsPiBij]
+  apply ne_of_mem_of_not_mem (s:= ({x | (p ∣ x)}:Set ℕ)) <;> simp_rw [Set.mem_setOf_eq]
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:200]:
```suggestion
  apply ne_of_mem_of_not_mem (s := {x | p ∣ x}) <;> simp_rw [Set.mem_setOf_eq]
```

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 17]
```diff
@@ -0,0 +1,247 @@
...
+  · rw [Nat.primeFactorsPiBij, ← prod_filter]
+    congr
+    ext ⟨p, hp⟩
+    refine ⟨by rintro rfl; apply hf, fun h => (hf_unique p hp i h).symm⟩
+  rw [prod_attach (f:=fun p => if p ∣ t i then p else 1), ← Finset.prod_filter]
+  rw [primeFactors_filter_dvd_of_dvd hn.ne_zero this]
+  exact prod_primeFactors_of_squarefree <| hn.squarefree_of_dvd this
+
+theorem card_finMulAntidiag_pi (d n : ℕ) (hn : Squarefree n) :
+    #(n.primeFactors.pi (fun _ => (univ : Finset <| Fin d))) =
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:236]:
```suggestion
    #(n.primeFactors.pi fun _ => (univ : Finset <| Fin d)) =
```

File: Mathlib/Algebra/Order/Antidiag/Nat.lean [hunk 18]
```diff
@@ -0,0 +1,247 @@
...
+      #(finMulAntidiag d n) := by
+  apply Finset.card_bij (Nat.primeFactorsPiBij d n) (primeFactorsPiBij_img d n hn)
+    (primeFactorsPiBij_inj d n) (primeFactorsPiBij_surj d n hn)
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Antidiag/Nat.lean:239]: This is a weird lemma to have. Shouldn't it be private?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
